US06825354B2
2-{[4-(2-Butynyloxy)phenyl]sulfinyl}-N-hydroxy-2-(4-ethoxyphenyl)acetamide
Starting from 2-{[4-(2-butynyloxy)phenyl]sulfanyl}-N-hydroxy-2-(4-ethoxyphenyl)acetamide (808 mg, 2.27 mmol) and following the procedure as outlined in Example 7, 640 mg of 2-{[4-(2-Butynyloxy)phenyl]sulfinyl}-N-hydroxy-2-(4-ethoxyphenyl acetamide was isolated as a brown powder. Yield: 73%; MS: 388.2 (M+H)+. Mp: 192-193.

reactant | 2-{[4-(2-butynyloxy)phenyl]sulfanyl}-N-hydroxy-2-(4-ethoxyphenyl)acetamide | 2.27 mmol, 808 mg | C(C#CC)OC1=CC=C(C=C1)SC(C(=O)NO)C1=CC=C(C=C1)OCC | C20H21NO4S
reactant | 4-ethoxyphenyl acetamide | C(C)OC1=CC=C(C=C1)CC(=O)N | C10H13NO2
product | 2-{[4-(2-Butynyloxy)phenyl]sulfinyl}-N-hydroxy-2-(4-ethoxyphenyl)acetamide | Yield: 73% | C(C#CC)OC1=CC=C(C=C1)S(=O)C(C(=O)NO)C1=CC=C(C=C1)OCC | C20H21NO5S
